US05484804
0.28 g of carbonyldiimidazole is added to a solution of 0.28 g of (2-methoxyphenyl)acetic acid in 20 cm3 of dry dichloromethane. The mixture is stirred at room temperature for 1 hour and a suspension of 0.7 g of (3aS,4S,7aS)-4,7,7-triphenylperhydroisoindol-4-ol hydrochloride in 20 cm3 of dry dichloromethane and then 0.48 cm3 of triethylamine are subsequently added in succession. The reaction mixture is stirred at room temperature for 24 hours, diluted with 100 cm3 of dichloromethane, washed with 100 cm3 of water (twice) and then with 100 cm3 of an aqueous saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 16 cm) by eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (55/45 by volume) and collecting fractions of 20 cm3. Fractions 7 to 8 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in 16 cm3 of acetonitrile. The crystals are filtered off and dried. 0.3 g of (3aS,4S,7aS)-4,7,7-triphenyl-2-(2-methoxyphenyl)acetylperhydroisoindol-4-ol is obtained in the form of white crystals which melt at 236° C.

reactant | carbonyldiimidazole | 0.28 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-methoxyphenyl)acetic acid | 0.28 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | (3aS,4S,7aS)-4,7,7-triphenylperhydroisoindol-4-ol hydrochloride | 0.7 g | Cl.C1(=CC=CC=C1)[C@]1([C@@H]2CNC[C@@H]2C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)O
reactant | triethylamine | 0.48 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | (3aS,4S,7aS)-4,7,7-triphenyl-2-(2-methoxyphenyl)acetylperhydroisoindol-4-ol | 0.3 g | C1(=CC=CC=C1)[C@]1([C@@H]2CNC([C@@H]2C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=C(C=CC=C1)OC)=O)O | C35H35NO3
